US04448717
B. Nα -t-Butyloxycarbonyl-D-alanyl-N-ethyl-N-(2-oxo-1-benzylpropyl)glycinamide.
The product from part A (1.3 g.; 4.5 mmoles) was dissolved in 25 ml. of glacial acetic acid containing 1.0N HCl (gas) and 3 ml. of anisole. The mixture was stirred at room temperature for 30 minutes after which it was poured onto a mixture of ethyl ether and petroleum ether. The resulting precipitate was collected and dried to give 1 g. of the hydrochloride salt of 3-ethylamino-4-butan-2-one. This material then was dissolved in 20 ml. of DMF containing 1.19 g. (4.5 mmoles) of Nα -t-butyloxycarbonyl-D-alanyl-glycine. The mixture was cooled to 0° C., and 0.9 ml. (4.5 mmoles) of dicyclohexylamine, 0.61 mg. (4.5 mmoles) of HBT, and 0.93 mg. (4.5 mmoles) of DCC were added to the reaction mixture. The mixture was stirred at 0° C. for 6 hours and then at room temperature for 3 days. The mixture then was cooled to 0° C., the precipitate was removed by filtration, and the filtrate was evaporated in vacuo. The resulting residue was dissolved in ethyl acetate, and the ethyl acetate solution was extracted successively with lN sodium bicarbonate, water, 1.5N citric acid, and water. The organic phase was dried over magnesium sulfate and evaporated in vacuo to obtain 1.3 g. (69%) of the title compound as a solid.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | Nα -t-butyloxycarbonyl-D-alanyl-glycine | 4.5 mmoles | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)NCC(=O)O | C10H18N2O5
reactant | dicyclohexylamine | 4.5 mmoles | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | DCC | 4.5 mmoles | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 1.19 g | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 1.0N | C(C)(=O)O | C2H4O2
product | Nα -t-Butyloxycarbonyl-D-alanyl-N-ethyl-N-(2-oxo-1-benzylpropyl)glycinamide | 69% | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)NCC(=O)N(C(C(C)=O)CC1=CC=CC=C1)CC | C22H33N3O5
